US09227985B2
(4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-[4-(methylsulfonyl)-1,4-diazepan-1-yl]-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine
Triethylamine (8.1 μL, 0.058 mmol) was added to a solution of (4S)-2-(1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine (5.0 mg, 0.012 mmol) in methylene chloride (0.44 mL), and the mixture was cooled to 0° C. Methanesulfonyl chloride (1.8 μL, 0.023 mmol) was then added and the mixture was stirred for 5 min at 0° C. The mixture was diluted with methanol and purified by preparative LCMS using pH 10 buffer to give the title compound (3.8 mg, 64%). LCMS calc. for C25H29N6O4S (M+H)+: m/z=509.2. found: 509.2.

reactant | Triethylamine | 0.058 mmol, 8.1 μL | C(C)N(CC)CC | C6H15N
reactant | (4S)-2-(1,4-diazepan-1-yl)-7-(3,5-dimethylisoxazol-4-yl)-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 0.012 mmol, 5.0 mg | N1(CCNCCC1)C1=NC2=CC=C(C3=C2N1[C@H](CO3)C3=NC=CC=C3)C=3C(=NOC3C)C | C24H26N6O2
reactant | Methanesulfonyl chloride | 0.023 mmol, 1.8 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 0.44 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (4S)-7-(3,5-Dimethylisoxazol-4-yl)-2-[4-(methylsulfonyl)-1,4-diazepan-1-yl]-4-pyridin-2-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazine | 3.8 mg, 64% | CC1=NOC(=C1C1=CC=C2C=3N([C@H](COC31)C3=NC=CC=C3)C(=N2)N2CCN(CCC2)S(=O)(=O)C)C | C25H28N6O4S
